US07625914B2
In a manner similar to that of Example 7(i), starting with 0.4 g (0.8 mmol) of methyl 2(S)-ethoxy-3-[4-(6-methylaminopyrid-2-yl)phenyl]propanoate and 2-naphthyl isocyanate, 0.2 g (62%) of methyl 2(S)-ethoxy-3-{4-[6-(1-methyl-3-naphthalen-2-ylureido)pyrid-2-yl]phenyl}propionate is obtained.

reactant | methyl 2(S)-ethoxy-3-[4-(6-methylaminopyrid-2-yl)phenyl]propanoate | 0.8 mmol, 0.4 g | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=NC(=CC=C1)NC | C18H22N2O3
reactant | 2-naphthyl isocyanate | C1=C(C=CC2=CC=CC=C12)N=C=O | C11H7NO
product | methyl 2(S)-ethoxy-3-{4-[6-(1-methyl-3-naphthalen-2-ylureido)pyrid-2-yl]phenyl}propionate | 0.2 g, 62% | C(C)O[C@H](C(=O)OC)CC1=CC=C(C=C1)C1=NC(=CC=C1)N(C(=O)NC1=CC2=CC=CC=C2C=C1)C | C29H29N3O4
